US07635701B2
2-(2,5-Dichlorophenylamino)-4-trifluoromethylpyrimidine-5-carboxylic acid cyclobutylamide
In a manner similar to Reference Example 1(c) 2-(2,5-dichlorophenylamino)-4-trifluoromethyl-pyrimidine-5-carboxylic acid (50 mg) and cyclobutylamine (19 μl)-afforded the title compound (56 mg).

reactant | 2-(2,5-dichlorophenylamino)-4-trifluoromethyl-pyrimidine-5-carboxylic acid | 50 mg | ClC1=C(C=C(C=C1)Cl)NC1=NC=C(C(=N1)C(F)(F)F)C(=O)O | C12H6Cl2F3N3O2
reactant | cyclobutylamine | 19 μl | C1(CCC1)N | C4H9N
product | 2-(2,5-Dichlorophenylamino)-4-trifluoromethylpyrimidine-5-carboxylic acid cyclobutylamide | 56 mg | C1(CCC1)NC(=O)C=1C(=NC(=NC1)NC1=C(C=CC(=C1)Cl)Cl)C(F)(F)F | C16H13Cl2F3N4O
